US06028116
(D) 5-Fluoro-2-methylinden-3-yl acetic acid
A mixture of 6-fluoro-2-methylindanone (18.4 g, 0.112 mol), cyanoacetic acid (10.5 g, 0.123 mol), acetic acid (6.6 g), and ammonium acetate (1.7 g) in dry toluene (15.5 ml) is refluxed for 21 hours, as the liberated water is collected in a Dean Stark trap. The mixture is evaporated to dryness, and the residue is dissolved in hot ethanol (60 ml) and 2.2 N aqueous potassium hydroxide solution (14 ml). 85% KOH (22 g) in water (150 ml) is added, and the mixture is refluxed for 13 hours under nitrogen. The ethanol is removed in vacuo, and water (500 ml) is added. The aqueous solution is washed well with ether and is boiled with charcoal, and is filtered. The aqueous filtrate is acidified to pH 2 with 50% cold hydrochloric acid. The precipitate yields the title compound, 5-fluoro-2-methylinden-3-yl acetic acid (m.p. 164-166° C.).

reactant | 6-fluoro-2-methylindanone | 0.112 mol, 18.4 g | FC1=CC=C2CC(C(C2=C1)=O)C | C10H9FO
reactant | cyanoacetic acid | 0.123 mol, 10.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | acetic acid | 6.6 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 1.7 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 15.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-fluoro-2-methylinden-3-yl acetic acid | FC=1C=C2C(=C(CC2=CC1)C)CC(=O)O | C12H11FO2
